US05604229
(1) 2-[4-(7-Octenyloxy)phenyl]ethyl Alcohol
Sodium ethoxide (4.98 g) was added to a solution (240 ml) of 2-(4-hydroxyphenyl)ethyl alcohol (8.68 g) in absolute ethanol and the mixture was stirred at 50° C. for 30 minutes. A solution of 7-octenyl bromide (10 g) in anhydrous tetrahydrofuran was dropwise added thereto and the mixture was stirred at 50° C. for 6 hours. The reaction mixture was concentrated, poured into ice water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue was purified by silica gel chromatography (eluent; ethyl acetate:hexane=1:5) to give the subject compound (10.76 g) as an oily substance.

reactant | Sodium ethoxide | 4.98 g | [O-]CC.[Na+]
reactant | 2-(4-hydroxyphenyl)ethyl alcohol | 240 ml, 8.68 g | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | 7-octenyl bromide | 10 g | C(CCCCCC=C)Br | C8H15Br
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[4-(7-Octenyloxy)phenyl]ethyl Alcohol | 10.76 g | C(CCCCCC=C)OC1=CC=C(C=C1)CCO | C16H24O2
